US05449788
To a 500 ml three neck flask equipped with a reflux condenser, thermometer, 250 ml addition funnel, magnetic stirrer, and water bath was charged 43.9 grams (0.675 mole) sodium cyanate, 75 ml acetonitrile, and 125 ml toluene. To the addition funnel was added 123 grams (0.675 mole) trichloroacetyl chloride. The trichloroacetyl chloride was added under nitrogen atmosphere at a rate to maintain the reaction temperature between 30°-40° C. After the addition was complete (30 min) the water bath was replaced with an electric heating mantle and the mixture was maintained at 65°-70° C. for 1.5 hour and then cooled to room temperature with the water bath, giving a solution of trichloroacetyl isocyanate containing slurried sodium chloride.

reactant | sodium cyanate | 0.675 mole, 43.9 grams | [O-]C#N.[Na+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
reactant | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
reactant | trichloroacetyl chloride | 0.675 mole, 123 grams | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | water | O | H2O
product | trichloroacetyl isocyanate | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
